US08980934B2
N-(Cyclopropyl(thiazol-2-yl)methyl)-3-iodo-1H-indazole-5-carboxamide
The title compound was synthesized according to General Method A utilizing 3-iodo-1H-indazole-5-carboxylic acid (255 mg, 0.88 mmol), cyclopropyl(thiazol-2-yl)methanamine (150 mg, 0.97 mmol), TBTU (310 mg, 0.97 mmol), DIPEA (0.31 mL, 1.8 mmol), and DMF (8 mL). The reaction was stirred at 0° C. for 1 h. The crude reaction was subsequently diluted with H2O. A filtration and washing (H2O) of the precipitate provided the desired product as a beige solid (195 mg, 52%). The product used without further purification. 1H NMR (400 MHz, CD3OD) δ ppm 8.16 (br. s., 1H), 7.99 (m., 1H), 7.77 (br. s., 1H), 7.46-7.67 (m, 2H), 1.45-1.68 (m, 1H), 0.46-0.90 (m, 4H); MS ESI 425.0 [M+H]+, calcd for [C15H13IN4OS+H]+ 425.0.

reactant | 3-iodo-1H-indazole-5-carboxylic acid | 0.88 mmol, 255 mg | IC1=NNC2=CC=C(C=C12)C(=O)O | C8H5IN2O2
reactant | cyclopropyl(thiazol-2-yl)methanamine | 0.97 mmol, 150 mg | C1(CC1)C(N)C=1SC=CN1 | C7H10N2S
reactant | TBTU | 0.97 mmol, 310 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 1.8 mmol, 0.31 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | H2O | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-(Cyclopropyl(thiazol-2-yl)methyl)-3-iodo-1H-indazole-5-carboxamide | 195 mg, 52% | C1(CC1)C(NC(=O)C=1C=C2C(=NNC2=CC1)I)C=1SC=CN1 | C15H13IN4OS
